US06620438B2
6.4 g of the oil of 4-[(2-hydroxy-ethyl)-(3-hydroxy-propyl)-amino]-piperidine prepared according to b) are taken up in 300 ml of acetone, combined with 13.8 g of N-[2-(3,5-bis-trifluoromethyl-phenyl)-ethyl]-2-methanesulphonyloxy-N-methyl-2-phenyl-acetamide and 33 ml of triethylamine and refluxed for 6 hours. The mixture is cooled, the solvent is eliminated in vacuo, the residue is stirred into 10% sodium hydrogen carbonate solution and extracted with ethyl acetate. The combined organic phases are dried over sodium sulphate, the solvent is eliminated in vacuo and the residue is chromatographed over silica gel with ethyl acetate/methanol/conc. ammonia solution 20:80:1. The uniform fractions according to TLC are combined and freed from the solvents in vacuo. 8.4 g of N-[2-(3,5-bis-trifluoromethyl-phenyl)-ethyl]-2-{4-[(2-hydroxy-ethyl)-(3-hydroxy-propyl)-amino]-piperidin-1-yl}-N-methyl-2-phenyl-acetamide are obtained as a yellowish-brown oil.

reactant | 4-[(2-hydroxy-ethyl)-(3-hydroxy-propyl)-amino]-piperidine | OCCN(C1CCNCC1)CCCO | C10H22N2O2
reactant | N-[2-(3,5-bis-trifluoromethyl-phenyl)-ethyl]-2-methanesulphonyloxy-N-methyl-2-phenyl-acetamide | 13.8 g | FC(C=1C=C(C=C(C1)C(F)(F)F)CCN(C(C(C1=CC=CC=C1)OS(=O)(=O)C)=O)C)(F)F | C20H19F6NO4S
reactant | triethylamine | 33 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | N-[2-(3,5-bis-trifluoromethyl-phenyl)-ethyl]-2-{4-[(2-hydroxy-ethyl)-(3-hydroxy-propyl)-amino]-piperidin-1-yl}-N-methyl-2-phenyl-acetamide | 8.4 g | FC(C=1C=C(C=C(C1)C(F)(F)F)CCN(C(C(C1=CC=CC=C1)N1CCC(CC1)N(CCCO)CCO)=O)C)(F)F | C29H37F6N3O3
